US04060526
Step 1. 2-Amino-N-phenylbenzamide.
Isatoic anhydride (130 g) and aniline (700 ml) were heated to 140°, cooled, poured into 20 liters of water and filtered. The solid was extracted with 4 liters of 1.25N HCl and filtered. The filtrate was washed with ether, made alkaline with 2.5N NaOH and filtered. The solid was treated with ether and water to give 120 g product.

reactant | Isatoic anhydride | 130 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | aniline | 700 ml | NC1=CC=CC=C1 | C6H7N
solvent | water | 20 liters | O | H2O
product | 2-Amino-N-phenylbenzamide | 120 g | NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H12N2O
